US07851463B2
1.4 (S)-3-phenyl-1-propyl-pyrrolidine
2.0 g of methanesulfonic acid (S)-4-methanesulfonyloxy-3-phenyl-butyl ester (5.51 mmol) were dissolved in 5 ml of n-propylamine (60.82 mmol). The reaction mixture was stirred for 15 h at room temperature, diethyl ether added, the organic phase washed twice with water. The aqueous phase was reextracted once with diethylether, the organic layers combined, dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to yield 1.09 g of the product. ESI-MS: 190.1 [M+H]+

reactant | methanesulfonic acid (S)-4-methanesulfonyloxy-3-phenyl-butyl ester | 5.51 mmol, 2.0 g | CS(=O)(=O)OC[C@@H](CCOS(=O)(=O)C)C1=CC=CC=C1 | C12H18O6S2
reactant | n-propylamine | 60.82 mmol, 5 ml | C(CC)N | C3H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (S)-3-phenyl-1-propyl-pyrrolidine | 1.09 g | C1(=CC=CC=C1)[C@H]1CN(CC1)CCC | C13H19N
